US08426447B2
A mixture of 3-(4-bromophenoxy)picolinonitrile (57 g, 207 mmol) and 300 g of PPA was stirred at 190° C. for 2 h, followed by 180° C. overnight. After cooling to RT, the reaction mixture was poured into 500 g of ice water. After the PH was adjusted to 7 with KOH, the suspension was filtered. The solid was washed with large excess of water, followed by washing with methanol and acetone. The resulting solid was air dried to give 8-bromo-10H-chromeno[3,2-b]pyridin-10-one as a tan solid with >90% purity. The material was carried on to the next step.

reactant | 3-(4-bromophenoxy)picolinonitrile | 207 mmol, 57 g | BrC1=CC=C(OC=2C(=NC=CC2)C#N)C=C1 | C12H7BrN2O
reactant | KOH | [OH-].[K+]
product | 8-bromo-10H-chromeno[3,2-b]pyridin-10-one | BrC1=CC=2C(C3=NC=CC=C3OC2C=C1)=O | C12H6BrNO2
